US20010027196A1
A solution of 200 mg (0.86 mmol) 4-furan-2-yl-6-methylsulfanyl-5-vinyl-pyrimidin-2-ylamine in 30 ml ethanol was stirred with a spatula end of 10% palladium on charcoal under 1 atm of hydrogen for 16 h at room temperature. After filtration to remove the catalyst, the reaction mixture was concentrated in vacuo and the residue triturated in ether/hexane to afford 60 mg (30%) 5-ethyl-4-furan-2-yl-6-methylsulfanyl-pyrimidin-2-ylamine as an off-white crystalline solid. ES-MS rn/e (%): 236 (M+H+, 100).

reactant | 4-furan-2-yl-6-methylsulfanyl-5-vinyl-pyrimidin-2-ylamine | 0.86 mmol, 200 mg | O1C(=CC=C1)C1=NC(=NC(=C1C=C)SC)N | C11H11N3OS
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | 5-ethyl-4-furan-2-yl-6-methylsulfanyl-pyrimidin-2-ylamine | 60 mg, 30% | C(C)C=1C(=NC(=NC1SC)N)C=1OC=CC1 | C11H13N3OS
